US04132737
Fourteen and nine-tenths grams of β-(2-bromo-6-trifluoromethylphenyl) propionic acid were cyclized with n-butyl lithium to yield 4-trifluoromethyl-1-indanone melting at about 32°-36° C.; yield = 6.2 g.; distilled at 67°-72° C. at 0.1 torr. 3 g. of the indanone were reductively aminated with ammonium acetate and sodium cyanoborohydride following the procedure of J.A.C.S., 93, 287-97 (1971). According to this procedure, 3 g. of 4-trifluoromethyl-1-indanone, 691 mg. of sodium cyanoborohydride, 11.6 g. of ammonium acetate and 45 ml. of methanol were mixed in the presence of a 3A molecular sieve (to absorb water). The reaction mixture was stirred at room temperature for about 3 days. It was then cooled in an ice-water bath and acidified with 12 N aqueous hydrochloric acid. Methanol was removed by evaporation and an additional 100 ml. of water were added. The reaction mixture was filtered and the acidic filtrate extracted with ether. The ether extract was discarded and the acidic aqueous solution cooled and then made basic with 5N aqueous sodium hydroxide. The alkaline layer was extracted three times with ether, and the ether extracts combined. The combined extracts were washed with saturated aqueous sodium chloride and then dried. Evaporation of the ether yielded 2 g. of an oil comprising 4-trifluoromethyl-1-aminoindane. The hydrochloride salt was made by the process of Example 1. Crystalline 4-trifluoromethyl-1-aminoindane hydrochloride thus prepared melted at 207°-211° C. with decomposition after recrystallization from an ethyl acetate-methanol solvent mixture; pKa = 8.58.

reactant | β-(2-bromo-6-trifluoromethylphenyl) propionic acid | BrC1=C(C(=CC=C1)C(F)(F)F)CCC(=O)O | C10H8BrF3O2
reactant | n-butyl lithium | C(CCC)[Li]
product | 4-trifluoromethyl-1-indanone | FC(C1=C2CCC(C2=CC=C1)=O)(F)F | C10H7F3O
